US06759554B2
The general procedure under argon was followed using copper(I) iodide (10 mg, 0.05 mmol), K3PO4 (425 mg, 2.00 mmol), benzylamine (131 μL, 1.20 mmol), 4-iodoanisole (234 mg, 1.00 mmol), ethylene glycol (111 μL, 2.00 mmol) and 2-propanol (1.0 mL). Column chromatography using a solvent mixture (hexane/ethyl acetate=10/1, Rƒ=0.4) afforded N-benzyl-4-methoxyaniline (192 mg, 90% isolated yield) as light yellow solid. The spectral data (1H NMR) matched with the literature references and GC analysis indicated >95% purity.

reactant | K3PO4 | 2.00 mmol, 425 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | benzylamine | 1.20 mmol, 131 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | 4-iodoanisole | 1.00 mmol, 234 mg | IC1=CC=C(C=C1)OC | C7H7IO
reactant | ethylene glycol | 2.00 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | copper(I) iodide | 0.05 mmol, 10 mg | [Cu]I
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | N-benzyl-4-methoxyaniline | 192 mg, 90% | C(C1=CC=CC=C1)NC1=CC=C(C=C1)OC | C14H15NO
